US07851473B2
(1) 1-Methyl-2-oxo-2-phenylethyl thiocyanate
A solution of 2-bromopropiophenone (7.14 ml, 46.9 mmol) and potassium thiocyanate (4.56 g, 46.9 mmol) in ethanol (80 ml) was stirred at 80° C. for 3 hours. After cooling to room temperature, water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to give 7.27 g (81.0%) of the desired product as an oil.

reactant | 2-bromopropiophenone | 46.9 mmol, 7.14 ml | BrC(C(=O)C1=CC=CC=C1)C | C9H9BrO
reactant | potassium thiocyanate | 46.9 mmol, 4.56 g | [S-]C#N.[K+]
reactant | water | O | H2O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 1-Methyl-2-oxo-2-phenylethyl thiocyanate | 7.27 g, 81.0% | CC(C(C1=CC=CC=C1)=O)SC#N | C10H9NOS
